*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXE6R3ARA821MJ80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXE6R3ARA821MJ80G_20deg-C 1 2

C1 4 2 3.65e-04
C2 5 2 3.99e-04
C3 6 2 7.00e-05
R1 3 4 7.90e-03
R2 4 5 7.03e-03
R3 5 6 1.64e-01
L1 1 3 4.20e-09

.ENDS
